US06350749B1
In benzene (4 ml) was dissolved 7-(2-chlorophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one (272 mg), and to the solution was added m-chloroperbenzoic acid (267 mg). The mixture was stirred at room temperature for 1 hour, and to the mixture were added ethyl acetate (70 ml), saturated sodium hydrogen carbonate solution (30 ml) and sodium nitrite (100 mg). The mixture was shaken, and the separated upper layer was washed with water and concentrated under reduced pressure. The residue was washed with ethyl acetate and dried to give 7-(2-chlorophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one-1-oxide (205 mg) as pale yellow crystals.

reactant | 7-(2-chlorophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one | 272 mg | ClC1=C(C=CC=C1)C1CC(C=2C(=CC=NC2C1)C)=O | C16H14ClNO
reactant | m-chloroperbenzoic acid | 267 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | 30 ml | C(O)([O-])=O.[Na+]
reactant | sodium nitrite | 100 mg | N(=O)[O-].[Na+]
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | 7-(2-chlorophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one-1-oxide | 205 mg | ClC1=C(C=CC=C1)C1CC(C=2C(=CC=[N+](C2C1)[O-])C)=O | C16H14ClNO2
